US06967254B2
Step A: 4-[4-(4-Chloro-phenyl)-3-oxo-5-pyridin-4-yl-pyrazolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(4-Chloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one 0.86 g and 4-Oxo-piperidine-1-carboxylic acid tert-butyl ester 0.75 g in chloroform 35 mL was added sodium triacetoxy boron hydride 0.75 g at 0° C., the reaction was warmed up to room temperature over two hours before heated to 50° C. for another two hours. The reaction was quenched with water 25 mL at 0° C., and the organic layer was collected, filtered, dried over MgSO4, concentrated to a yellow solid 0.42 g for being directly used for next step. MS (ES+): 457 (M+H)+.

reactant | 4-(4-Chloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one | 0.86 g | ClC1=CC=C(C=C1)C1C(NNC1C1=CC=NC=C1)=O | C14H12ClN3O
reactant | 4-Oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.75 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | chloroform | 35 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(4-Chloro-phenyl)-3-oxo-5-pyridin-4-yl-pyrazolidin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1NC(C(C1C1=CC=NC=C1)C1=CC=C(C=C1)Cl)=O | C24H29ClN4O3
